US07166587B2
A solution of 0.26 g (0.85 mmol) (S)-7-amino-5-(2,2,2-trifluoro-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one in 18 ml tetrahydrofurane was treated at 0° C. with 0.08 g (0.94 mmol) L-lactic acid, 0.13 g (0.85 mmol) 1-hydroxybenzotriazole hydrate, 297 μl (1.70 mmol) N-ethyldiisopropylamine and 0.17 g (0.85 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochlorid. After stirring at room temperature overnight the mixture was extracted with 1N aqueous hydrochloric acid/ethylacetate. Purification by chromatography on silicagel with ethylacetate/heptane (0-100/100-0) yielded 0.22 g (68%) (S)-2-hydroxy-N—[(S)-6-oxo-5-(2,2,2-trifluoro-ethyl)-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-propionamide as grey solid, MS: m/e: 379.4 (M+H+), [α] 589=−23° (1.1% in CHCl3).

reactant | (S)-7-amino-5-(2,2,2-trifluoro-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | 0.85 mmol, 0.26 g | N[C@H]1C2=C(C3=C(N(C1=O)CC(F)(F)F)C=CC=C3)C=CC=C2 | C16H13F3N2O
reactant | L-lactic acid | 0.94 mmol, 0.08 g | C([C@@H](O)C)(=O)O | C3H6O3
reactant | 1-hydroxybenzotriazole hydrate | 0.85 mmol, 0.13 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | 1.70 mmol, 297 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochlorid | 0.85 mmol, 0.17 g | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofurane | 18 ml | O1CCCC1 | C4H8O
product | (S)-2-hydroxy-N—[(S)-6-oxo-5-(2,2,2-trifluoro-ethyl)-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-propionamide | 0.22 g, 68% | O[C@H](C(=O)N[C@H]1C2=C(C3=C(N(C1=O)CC(F)(F)F)C=CC=C3)C=CC=C2)C | C19H17F3N2O3
